US09233966B2
Preparation of (S)-2-Chloro-1-(3,4-Difluorophenyl)Ethanol (Formula IXA)
Trimethoxy borane (2.0 g) was added at room temperature to a stirred solution of (S)-diphenylprolinol (3.5 g) in toluene (100 mL). After stirring this mixture for 90 minutes at about 65-75° C., borane dimethylsulfide (2M THF solution, 105 mL) was added over a period of 50 minutes maintaining the temperature between 65 and 75° C. This mixture was stirred for another 90 minutes at 75° C., then a solution of 2-chloro-1-(3,4-difluorophenyl)ethanone (50.0 g) in toluene (150 mL) was dosed over a period of 25 minutes maintaining the temperature between 65 and 75° C. After the completion of the addition the reaction mixture was stirred for another 100 minutes at 75° C. at which point the completion of reaction was monitored by TLC. Then mixture was cooled to 0-5° C. and methanol (50 mL) was added over a period of 30 minutes controlling the gas formation and the temperature to a maximum of 5° C. After the addition is complete, the obtained solution was subjected to distillation under reduced pressure at below 60° C., followed by sequential addition of 10% aqueous acetic acid solution (250 mL) and toluene (500 mL) to the residue. The layers were separated and obtained water layer was back extracted with toluene (250 mL). Both organic layers were combined and washed with water (500 mL). The resulting organic layer was subjected to complete distillation under vacuum to afford the title compound in 94.2% yield having chiral HPLC purity of 99.62%.

reactant | Trimethoxy borane | 2.0 g | COB(OC)OC | C3H9BO3
reactant | (S)-diphenylprolinol | 3.5 g | C1(=CC=CC=C1)[C@]1(N(CCC1)C1=CC=CC=C1)CO | C17H19NO
reactant | borane dimethylsulfide | 2M, 105 mL | CSC.B
reactant | 2-chloro-1-(3,4-difluorophenyl)ethanone | 50.0 g | ClCC(=O)C1=CC(=C(C=C1)F)F | C8H5ClF2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 mL | CO | CH4O
product | (S)-2-Chloro-1-(3,4-Difluorophenyl)Ethanol | 94.2% yield | ClC[C@@H](O)C1=CC(=C(C=C1)F)F | C8H7ClF2O
